US06730668B2
Preparation of 1-(4-dimethylamino-pyrazolidin-1-yl)-2-(4-fluorophenyl)-ethanone (22):
4-dimethylamino-2-[2-(4-fluorophenyl)acetyl]-pyrazolidine-1-carboxylic acid benzyl ester HCl salt, 21, (4.22 g, 10 mmol) is dissolved in methanol and Pd/C (100 mg) is added. The solution is then hydrogenated of a Parr® Hydrogenation Apparatus 18 hours after which time the catalyst is removed by filtration and the filtrate concentrated in vacuo to afford the desired product.

reactant | 4-dimethylamino-2-[2-(4-fluorophenyl)acetyl]-pyrazolidine-1-carboxylic acid benzyl ester HCl salt | Cl.C(C1=CC=CC=C1)OC(=O)N1N(CC(C1)N(C)C)C(CC1=CC=C(C=C1)F)=O
solvent | methanol | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 1-(4-dimethylamino-pyrazolidin-1-yl)-2-(4-fluorophenyl)-ethanone | CN(C1CNN(C1)C(CC1=CC=C(C=C1)F)=O)C | C13H18FN3O
